US07323465B2
Ethanesulfonic acid (6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide (363 mg) was added to a solution of potassium tert.-butoxide (427 mg) in ethylene glycol (7 ml) and stirred at 100° C. for 7 days. The reaction mixture was then poured onto ice/water and extracted with ethyl acetate. The crude product was purified by chromatography over silicagel with DCM/MeOH=9/1 to give ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide (310 mg) as a white powder. LC-MS: tR: 3.47, [M+H]+: 338.13.

reactant | Ethanesulfonic acid (6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide | 363 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)CC)C1=CC=C(C=C1)C | C13H14ClN3O2S
reactant | potassium tert.-butoxide | 427 mg | CC(C)([O-])C.[K+]
reactant | ethylene glycol | 7 ml | C(CO)O | C2H6O2
product | ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide | 310 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)CC)C1=CC=C(C=C1)C | C15H19N3O4S
